US08349885B2
4-Methyl-2-nitroaniline (20 g, 131.5 mmol) was dissolved in ethanol (300 ml), silver nitrate (27 g, 157.7 mmol) and iodine (40 g, 157.7 mmol) were added, and the mixture was stirred for 8 h at room temperature. After completion of the reaction, the reaction mixture was filtered through celite, washed with ethyl acetate (100 ml) and concentrated. Water was added, and the mixture was extracted with ethyl acetate, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate to give 2-iodo-4-methyl-6-nitro-phenylamine (29 g, Yield 69%).

reactant | 4-Methyl-2-nitroaniline | 131.5 mmol, 20 g | CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | iodine | 157.7 mmol, 40 g | II | I2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | silver nitrate | 157.7 mmol, 27 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-iodo-4-methyl-6-nitro-phenylamine | 29 g, Yield 69% | IC1=C(C(=CC(=C1)C)[N+](=O)[O-])N | C7H7IN2O2
